US07244843B2
Step A. Preparation of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(2-furyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one
To a degassed solution of tetrakis(triphenylphospine)palladium(0) (3 mg, 0.002 mmol) in toluene (2 mL) was added N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-bromo-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (50 mg, 0.12 mmol). The resulting solution was degassed by exposure to vacuum and then an argon atmosphere (×3). To this solution was added 2-(tributylstannyl)furan (0.038 mL, 0.12 mmol). The resulting solution was degassed a final time and was then warmed to reflux conditions. The light yellow solution was maintained at reflux conditions for 14 h and became gray in color. The reaction was cooled, diluted with ethyl acetate, aqueous hydrogen chloride (1N), and saturated aqueous sodium chloride. The layers were separated and the aqueous layer was washed with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated. The resulting residue was purified by radial chromatography (10–30% ethyl acetate in hexanes) to give the desired product as a clear residue (44 mg, 90%). MS (ESI) 423.3 (M+H).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-bromo-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.12 mmol, 50 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)Br)C(F)(F)F)=O)CC1 | C17H18BrF3N2O3
reactant | 2-(tributylstannyl)furan | 0.12 mmol, 0.038 mL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(2-furyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)C=2OC=CC2)C(F)(F)F)=O)CC1 | C21H21F3N2O4
